US07632940B2
A suspension of 30.0 g (47.5 mmol) 3-chlorobenzoic acid (2R,3S,4R,5R)-2-azido-3,4-bis-benzoyloxy-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-tetrahydro-furan-2-ylmethyl ester and 26.0 g (380 mmol) imidazole in 110 ml MeTHF was treated at room temperature with 19.2 g (189 mmol) triethylamine. The resulting mixture was treated at 10 to 20° C. within 30 minutes with 11.03 g (71.2 mmol) phosphorous oxychloride. The mixture was heated to 60° C. and stirred at this temperature for 5 hours. The mixture was then cooled to 15° C. and treated at this temperature with 125 ml water. The layers were separated and the aqueous layer was extracted with MeTHF (1×30 ml). From the organic layer MeTHF was completely removed by distillation and replaced by 250 ml acetonitrile. Water (50 ml) and methylene chloride (100 ml) were added and the layers were separated. The aqueous layer was extracted with methylene chloride (1×100 ml). The organic layer was filtered, the solvent was evaporated and the residue (34.2 g) dried in vacuo (<30 mbar) at 40° C. for 16 hours to afford 29.7 g (90.8%) of 3-chlorobenzoic acid (2R,3S,4R,5R)-2-azido-3,4-bis-benzoyloxy-5-(4-imidazol-1-yl-2-oxo-2H-pyrimidin-1-yl)-tetrahydro-furan-2-ylmethyl ester with an assay of 99.3% (area).

reactant | 3-chlorobenzoic acid (2R,3S,4R,5R)-2-azido-3,4-bis-benzoyloxy-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-tetrahydro-furan-2-ylmethyl ester | 47.5 mmol, 30.0 g | N(=[N+]=[N-])[C@@]1(O[C@H]([C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)N1C(NC(C=C1)=O)=O)COC(C1=CC(=CC=C1)Cl)=O | C30H22ClN5O9
reactant | imidazole | 380 mmol, 26.0 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 189 mmol, 19.2 g | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 71.2 mmol, 11.03 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | MeTHF | 110 ml | CC1CCCO1 | C5H10O
solvent | water | 125 ml | O | H2O
product | 3-chlorobenzoic acid (2R,3S,4R,5R)-2-azido-3,4-bis-benzoyloxy-5-(4-imidazol-1-yl-2-oxo-2H-pyrimidin-1-yl)-tetrahydro-furan-2-ylmethyl ester | 29.7 g, 90.8% | N(=[N+]=[N-])[C@@]1(O[C@H]([C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)N1C(N=C(C=C1)N1C=NC=C1)=O)COC(C1=CC(=CC=C1)Cl)=O | C33H24ClN7O8
